US05571775
25. Preparation of 8-Amino-2-benzylthio-5-chloro[1,2,4]triazolo[1,5-a]pyridine
A solution of 8-amino-2-benzylthio[1,2,4]triazolo[1,5-a]pyridine (14.0 g, 0.0546 mol) and 1,3-dichloro-5,5-dimethylhydantoin (5.4 g, 0.0273 mol) were combined in 500 mL of dichloromethane and the mixture was heated at reflux with stirring for two hours. Additional 1,3-dichloro-5,5-dimethylhydantoin (5.0 g, 0.025 mol) was added and the reaction was ]heated with stirring for an additional hour. The reaction mixture was cooled and dilute aqueous sodium bisulfite was added with stirring and allowed to react for an hour. The mixture was then washed with water and the volatiles were removed by evaporation under reduced pressure. The residue obtained was chromatographed on silica gel eluting with dichloromethane to obtain 6.0 g (38 percent of theory) of the title compound as a light tan powder melting at 113°-114° C.

reactant | 8-amino-2-benzylthio[1,2,4]triazolo[1,5-a]pyridine | 0.0546 mol, 14.0 g | NC=1C=2N(C=CC1)N=C(N2)SCC2=CC=CC=C2 | C13H12N4S
reactant | 1,3-dichloro-5,5-dimethylhydantoin | 0.0273 mol, 5.4 g | ClN1C(=O)N(C(=O)C1(C)C)Cl | C5H6Cl2N2O2
reactant | 1,3-dichloro-5,5-dimethylhydantoin | 0.025 mol, 5.0 g | ClN1C(=O)N(C(=O)C1(C)C)Cl | C5H6Cl2N2O2
reactant | sodium bisulfite | S([O-])(O)=O.[Na+]
solvent | dichloromethane | 500 mL | ClCCl | CH2Cl2
product | 8-Amino-2-benzylthio-5-chloro[1,2,4]triazolo[1,5-a]pyridine | NC=1C=2N(C(=CC1)Cl)N=C(N2)SCC2=CC=CC=C2 | C13H11ClN4S
